US07223788B2
4-Phenoxycyclohexanecarboxylic acid {4-[3-(acetylmethylamino)pyrrolidin-1-yl]phenyl}amide
0.251 g of PyBOP and 0.135 ml of triethylamine were added to a solution of 0.106 g of 4-phenoxycyclohexanecarboxylic acid and 0.113 g of N-[1-(4-aminophenyl)pyrrolidin-3-yl]-N-methylacetamide in 9 ml of DMF at 0° C. After 10 minutes, the solution was allowed to reach room temperature and was stirred at this temperature overnight. The solvent was then removed in vacuo, and the residue was taken up in water/ethyl acetate. The ethyl acetate phase was washed with 10% citric acid and 10% NaHCO3 solution and dried over sodium sulfate, and the solvent was removed in vacuo. The residue was purified by preparative HPLC. The desired product was obtained. Molecular weight 435.25 (C26H33N3O3), MS: 436 (M+H+).

reactant | PyBOP | 0.251 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.135 ml | C(C)N(CC)CC | C6H15N
reactant | 4-phenoxycyclohexanecarboxylic acid | 0.106 g | O(C1=CC=CC=C1)C1CCC(CC1)C(=O)O | C13H16O3
reactant | N-[1-(4-aminophenyl)pyrrolidin-3-yl]-N-methylacetamide | 0.113 g | NC1=CC=C(C=C1)N1CC(CC1)N(C(C)=O)C | C13H19N3O
reactant | DMF | 9 ml | CN(C)C=O | C3H7NO
product | 4-Phenoxycyclohexanecarboxylic acid {4-[3-(acetylmethylamino)pyrrolidin-1-yl]phenyl}amide | C(C)(=O)CNC1CN(CC1)C1=CC=C(C=C1)NC(=O)C1CCC(CC1)OC1=CC=CC=C1 | C26H33N3O3
